US06649600B1
A mixture of 3-[4-(2,6-Dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]oct-1-yl]-propionic acid (208 mg, 0.5 mmol), sodium bicarbonate (168 mg, 2 mmol), and tetra-n-butylammonium hydrogensulfate (17 mg, 0.05 mmol) in water (5 ml) and dichloromethane (5 ml) was stirred vigorously at 0° C. After 10 min, to the reaction mixture was added a solution of chloromethyl chlorosulfate in dichloromethane (1 ml) and allowed to ambient temperature and continued to stir vigorously. After a couple of hours, the organic layer was separated and washed with brine. The organic extracts were dried over sodium sulfate. After the solvent was removed in vacuo, the residue was purified by column chromatography on SiO2 using ethyl/hexane (1:5) as an eluent to give (200 mg, yield 86%) 3-[4-(2,6-Dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]oct-1-yl]-propionic acid chloromethyl ester. MS (M+1 465)

reactant | 3-[4-(2,6-Dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]oct-1-yl]-propionic acid | 0.5 mmol, 208 mg | O=C1N(C(C=2NC(=NC2N1CCC)C12CCC(CC1)(CC2)CCC(=O)O)=O)CCC | C22H32N4O4
reactant | sodium bicarbonate | 2 mmol, 168 mg | C([O-])(O)=O.[Na+]
reactant | chloromethyl chlorosulfate | S(=O)(=O)(OCCl)Cl | CH2Cl2O3S
catalyst | tetra-n-butylammonium hydrogensulfate | 0.05 mmol, 17 mg | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 5 ml | O | H2O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 3-[4-(2,6-Dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]oct-1-yl]-propionic acid chloromethyl ester | 200 mg, yield 86% | ClCOC(CCC12CCC(CC1)(CC2)C2=NC=1N(C(N(C(C1N2)=O)CCC)=O)CCC)=O | C23H33ClN4O4
